US07238808B2
5-[7-Cyclopropyl-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide
The title compound was prepared from 7-cyclopropyl-5-(3,4-dichloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.8) (82 mg, 0.25 mmol) and commercially available 5-bromo-2,4-difluoro-benzenesulfonamide (68 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (39 mg, 30%). MS (ISP) 519.0 [(M+H)+]; mp 280–281° C.

reactant | 7-cyclopropyl-5-(3,4-dichloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 82 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC(=C(C=C2)Cl)Cl | C17H11Cl2N3
reactant | 5-bromo-2,4-difluoro-benzenesulfonamide | 0.25 mmol, 68 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 5-[7-Cyclopropyl-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide | C1(CC1)C1=CC(=NC=2N1N=CC2C#CC=2C(=CC(=C(C2)S(=O)(=O)N)F)F)C2=CC(=C(C=C2)Cl)Cl | C23H14Cl2F2N4O2S
